US06579886B2
[3S,4aR,6S,8aR]-Ethyl-6-((4-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate was dissolved in ethyl acetate and excess 1M HCl in diethyl ether was added. The resulting white precipitate was filtered and vacuum dried at 50° C. for 18 hr to give 0.62 g of [3S,4aR,6S,8aR]-ethyl-6-((4-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate dihydrochloride: MS m/z: 364 (m++1); Analysis calculated for C19H29N3O4.2HCl H2O: C, 50.20; H, 6.89; N, 9.25. Found: C, 50.51; H, 6.86; N, 9.25.

reactant | [3S,4aR,6S,8aR]-Ethyl-6-((4-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | C(C)OC(=O)[C@H]1NC[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1)C(=O)OCC | C19H29N3O4
reactant | HCl | 1M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | [3S,4aR,6S,8aR]-ethyl-6-((4-ethoxycarbonyl-1H-imidazol-1-yl)methyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate dihydrochloride | 0.62 g | Cl.Cl.C(C)OC(=O)[C@H]1NC[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1)C(=O)OCC | InChI=1S/C19H29N3O4.2ClH/c1-3-25-18(23)16-8-15-7-13(5-6-14(15)9-20-16)10-22-11-17(21-12-22)19(24)26-4-2;;/h11-16,20H,3-10H2,1-2H3;2*1H/t13-,14-,15+,16-;;/m0../s1
